US08835428B2
(S)-3-Methyl-2-({3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carbonyl}-amino)-butyric acid
The title compound was prepared from (S)-3-methyl-2-({3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carbonyl}-amino)-butyric acid methyl ester as set forth in Example 8 and was obtained in 83% yield. Mass (ES+): 423 (M++1); IR (KBr): 3347, 3317, 1708, 1671 (br), 1599, 1547 (br); 1H NMR (DMSO-d6) δ: 0.95 (2×d, 6H), 2.20 (m, 1H), 4.27 (q, 2H), 6.97 (t, 1H), 7.28 (t, 2H), 7.45 (d, 2H), 7.60 (d, 2H), 7.68 (s, 1H), 7.82 (d, 2H), 8.75 (s, 1H), 8.94 (d, 1H), 8.96 (d, 1H).

reactant | (S)-3-methyl-2-({3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carbonyl}-amino)-butyric acid methyl ester | COC([C@H](C(C)C)NC(=O)C1=CC(=NO1)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1)=O | C23H24N4O5
reactant | KBr | [K+].[Br-]
product | (S)-3-Methyl-2-({3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carbonyl}-amino)-butyric acid | 83% yield | CC([C@@H](C(=O)O)NC(=O)C1=CC(=NO1)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1)C | C22H22N4O5
